US04402958
2-Chloro-3-phenylpyrazine
A 0.01 mol. sample of 3-phenylpyrazin-2(1H)one is mixed with 9.0 ml. of phosphorous oxychloride (POCl3) and refluxed for 5-6 hr. The excess phosphorous oxychloride is removed by distillation at reduced pressure and 25 ml. of methylene chloride added to the residue. The resultant solution is stirred with a few milliliters of ice water, dried, evaporated and the residue recrystallized to yield the title compound.

reactant | 3-phenylpyrazin-2(1H)one | C1(=CC=CC=C1)C=1C(NC=CN1)=O | C10H8N2O
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-3-phenylpyrazine | ClC1=NC=CN=C1C1=CC=CC=C1 | C10H7ClN2
